US04225597
The beclomethasone dipropionate-n-hexane solvate is prepared by dissolving the beclomethasone dipropionate in a suitable organic solvent, such as methylene chloride or acetone, and then adding n-hexane to this solution resulting in the formation of a precipitate. The precipitate is filtered and dried to afford the beclomethasone dipropionate-n-hexane solvate.

reactant | beclomethasone dipropionate | CCC(=O)OCC(=O)[C@]1([C@H](C[C@@H]2[C@@]1(C[C@@H]([C@]3([C@H]2CCC4=CC(=O)C=C[C@@]43C)Cl)O)C)C)OC(=O)CC | C28H37ClO7
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
reactant | acetone | CC(=O)C | C3H6O
solvent | n-hexane | CCCCCC | C6H14
product | beclomethasone dipropionate n-hexane | CCC(=O)OCC(=O)[C@]1([C@H](C[C@@H]2[C@@]1(C[C@@H]([C@]3([C@H]2CCC4=CC(=O)C=C[C@@]43C)Cl)O)C)C)OC(=O)CC.CCCCCC | InChI=1S/C28H37ClO7.C6H14/c1-6-23(33)35-15-22(32)28(36-24(34)7-2)16(3)12-20-19-9-8-17-13-18(30)10-11-25(17,4)27(19,29)21(31)14-26(20,28)5;1-3-5-6-4-2/h10-11,13,16,19-21,31H,6-9,12,14-15H2,1-5H3;3-6H2,1-2H3/t16-,19-,20-,21-,25-,26-,27-,28-;/m0./s1
